US07268230B2
Using an analogous procedure to that described for the preparation of the starting material in Example 11, tert-butyl (2S)-2-[(4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazolin-7-yloxy)methyl]pyrrolidine-1-carboxylate (170 mg, 0.33 mmol) was reacted with hydrogen chloride in dioxane. The solid was dissolved in methanol and absorbed onto an Isolute SCX column which was washed through with methanol and then the product was eluted with 7N ammonia in methanol to give 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-[(2S)-pyrrolidin-2-ylmethoxy]quinazoline (128 mg, 93%).

reactant | tert-butyl (2S)-2-[(4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazolin-7-yloxy)methyl]pyrrolidine-1-carboxylate | 0.33 mmol, 170 mg | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OC[C@H]1N(CCC1)C(=O)OC(C)(C)C)C | C28H31FN4O5
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-[(2S)-pyrrolidin-2-ylmethoxy]quinazoline | 128 mg, 93% | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OC[C@H]1NCCC1)C | C23H23FN4O3
